US05559230
5-Carboxymethoxy-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.55 g) is dissolved in dimethylformamide (20 ml) and thereto are added dimethylamine hydrochloride (0.20 g) and diethyl chlorophosphate (0.33 g). To the mixture is added triethylamine (1.0 ml) under ice-cooling, and the mixture is stirred under ice-cooling for 30 minutes, and at room temperature for more 2 hours. Water is added to the reaction solution and the precipitated crystal is collected by filtration and recrystallized from ethyl acetate/n-hexane to give 5-dimethylaminocarbonylmethoxy-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.50 g) as colorless prisms, m.p. 203°-204° C.

reactant | 5-Carboxymethoxy-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.55 g | C(=O)(O)COC1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O | C27H26N2O5
reactant | dimethylamine hydrochloride | 0.20 g | Cl.CNC
reactant | diethyl chlorophosphate | 0.33 g | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
reactant | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 5-dimethylaminocarbonylmethoxy-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.50 g | CN(C(=O)COC1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O)C | C29H31N3O4
